US05104883
To a solution of 2.5 M n-butyllithium in hexane (13.2 ml, 33 mmol) at -78° C. was added diethyl ether (15 ml) followed by a solution of 3-bromopyridine (4.7 g, 30 mmol) in ether (90 ml) over a period of 10 minutes. After 1 hour at -78° C. a solution of (±)-2-methoxycyclohexane (3.84 g, 30 mmol) in ether (20 ml) was added dropwise during 10 minutes. After 2 hours at -78° C. and 30 minutes at 0° C. the reaction mixture was warmed to 20° C. and then poured onto ice (150 g). The mixture was extracted with ether (2×50 ml) and then the combined organic extracts were extracted with 1 N hydrochloric acid (50 ml). This aqueous extract was washed with ether (20 ml) and then treated with 2 M sodium hydroxide solution (25 ml) and extracted with ether (3×100 ml). The organic extracts were combined, washed with brine then dried over anhydrous sodium sulphate. Concentration in vacuo afforded (±)-2-methoxy-1-(pyrid-3-yl)cyclohexanol (5.0 g, 24 mmol) as a 4:1 mixture of cis and trans isomers;

reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | hexane | 33 mmol, 13.2 ml | CCCCCC | C6H14
reactant | 3-bromopyridine | 30 mmol, 4.7 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | (±)-2-methoxycyclohexane | 30 mmol, 3.84 g | COC1CCCCC1 | C7H14O
reactant | ether | 90 ml | CCOCC | C4H10O
reactant | ether | 20 ml | CCOCC | C4H10O
reactant | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | (±)-2-methoxy-1-(pyrid-3-yl)cyclohexanol | 24 mmol, 5.0 g | COC1C(CCCC1)(O)C=1C=NC=CC1 | C12H17NO2
